US05252538
To a solution of diethyl 2-methyloxazolo[5.4-b]pyridine-5,6-dicarboxylate (5.42 g, 0 0195 mol) dissolved in absolute methanol (160 mL) is added a 10% aqueous sodium hydroxide solution (36.1 mL, 0.0974 mol). A white precipitate slowly forms. The reaction is stirred at room temperature for one hour, diluted with water (20 mL) to dissolve the precipitate, and concentrated in vacuo The residue is dissolved in water and acidified to pH 2-3 with concentrated HCl. The resulting white precipitate is collected by filtration, washed with water, and air dried to give 2-methyloxazolo[5,4-b]pyridine-5,6-dicarboxylic acid in 61% yield, melting point 235°-236° C. (dec).

reactant | diethyl 2-methyloxazolo[5.4-b]pyridine-5,6-dicarboxylate | 5.42 g | CC=1OC2=NC(=C(C=C2N1)C(=O)OCC)C(=O)OCC | C13H14N2O5
reactant | sodium hydroxide | 0.0974 mol, 36.1 mL | [OH-].[Na+]
solvent | methanol | 160 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | 2-methyloxazolo[5,4-b]pyridine-5,6-dicarboxylic acid | 61% yield | CC=1OC2=NC(=C(C=C2N1)C(=O)O)C(=O)O | C9H6N2O5
